US07915300B2
4-{2-[2-(S)-(tert-Butoxycarbonyl-methyl-amino)-propionylamino]-acetyl}-benzoic acid methyl ester
4-(2-Amino-acetyl)-benzoic acid methyl ester hydrochloride (2.22 mmol), WSC.HCl (2.44 mmol), Boc-N-methyl-(L)-alanine (2.44 mmol) and HOBt (2.77 mmol) were suspended in dichloromethane (10 ml). NMM (2.44 mmol) was added and the reaction stirred for 2 h. The reaction was diluted with ethyl acetate (50 ml) and washed with 10% citric acid (2×25 ml) and saturated sodium hydrogen carbonate (2×25 ml). The organic layer was dried (MgSO4) and the solvent removed in vacuo to give a brown oil residue. Purification by silica chromatography eluting with 10-50% ethyl acetate/iso-hexane gave the title compound (620 mg) as a pale yellow oil m/z=379 in MS ES+.

reactant | 4-(2-Amino-acetyl)-benzoic acid methyl ester hydrochloride | 2.22 mmol | Cl.COC(C1=CC=C(C=C1)C(CN)=O)=O
reactant | WSC.HCl | 2.44 mmol | CCN=C=NCCCN(C)C.Cl
reactant | Boc-N-methyl-(L)-alanine | 2.44 mmol | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | HOBt | 2.77 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 2.44 mmol | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-{2-[2-(S)-(tert-Butoxycarbonyl-methyl-amino)-propionylamino]-acetyl}-benzoic acid methyl ester | 620 mg | COC(C1=CC=C(C=C1)C(CNC([C@H](C)N(C)C(=O)OC(C)(C)C)=O)=O)=O | C19H26N2O6
